US04608374
8-Chloro-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
A mixture of [1-(4-chloro-2-fluorobenzyl)-2-pyrryl]-[(1-methyl)piperidin-4-yl]methanol (0.65 g, 0.002 mole) and sodium hydride (50% in oil, 0.12 g, 0.0023 mole, washed once with hexane) in 25 ml 20% DMF/benzene was heated at 80° C. for seven hours.

reactant | [1-(4-chloro-2-fluorobenzyl)-2-pyrryl]-[(1-methyl)piperidin-4-yl]methanol | 0.002 mole, 0.65 g | ClC1=CC(=C(CN2C(=CC=C2)C(O)C2CCN(CC2)C)C=C1)F | C18H22ClFN2O
reactant | sodium hydride | [H-].[Na+]
product | 8-Chloro-11-[(1-methyl)piperidin-4-yl]-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | ClC1=CC2=C(CN3C(C(O2)C2CCN(CC2)C)=CC=C3)C=C1 | C18H21ClN2O
